US08420849B2
2-(4-t-Butylphenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (250 mL) solution of 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (24.94 g, 64.6 mmol, purity: 78%) was cooled to −23° C., and to this solution, a chloroform (50 mL) solution of sulfuryl chloride (5.45 mL, 1.05 equivalent amounts) was dropwise added over a period of 27 minutes, followed by stirring at from −22 to −24° C. for 33 minutes. The temperature of the solution was raised to −3° C., and water (50 mL) was dropwise added over a period of 2.5 minutes, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a sodium hydroxide aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. The obtained crude product was distilled in chloroform (80 mL) at 45° C., the solution was cooled to 0° C., and isopropanol (375 mL) was dropwise added, followed by stirring at 0° C. for 40 minutes. The formed crystals were subjected to filtration to give the desired product as a yellow solid (15.5 g, yield: 63%).

reactant | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 64.6 mmol, 24.94 g | C(C)(C)(C)C1=CC=C(C=C1)C1SCC(=C1O)C(=O)C | C16H20O2S
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 5.45 mL, 1.05 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 50 mL | O | H2O
product | 2-(4-t-Butylphenyl)-3-hydroxy-4-methylcarbonyl thiophene | 15.5 g, yield: 63% | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
